US04028089
The procedure described in Example 1 is repeated using, instead of 3,3-bis(methylthio)-2-cyanoacrylonitrile, an equivalent amount of 3,3-bis(methylthio)- 2-cyanoacrylic acid butyl ester in butanol. There is obtained 2-benzoxazolinylidene-cyanoacetic acid butyl ester of melting point 116°-119° C. [from ethyl acetate/hexane (1:4)].

reactant | 3,3-bis(methylthio)-2-cyanoacrylonitrile | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | 3,3-bis(methylthio)- 2-cyanoacrylic acid butyl ester | C(CCC)OC(C(=C(SC)SC)C#N)=O | C10H15NO2S2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | butanol | C(CCC)O | C4H10O
product | 2-benzoxazolinylidene-cyanoacetic acid butyl ester | C(CCC)OC(C(=C1OC2=C(N1)C=CC=C2)C#N)=O | C14H14N2O3
